US09120808B2
Benzyl-(4-bromo-but-2-enyl)-carbamic acid benzyl ester
A mixture of N-benzyloxycarbonylbenzylamine (50 g), 1,4-dibromo-2-butene (44 g) and NaH (10.7 g, 60% in oil) in 350 ml of DMF is stirred at 0° C. for 1 h and then at 25° C. for 3 h. The reaction mixture is subjected to aqueous workup and the residue obtained is purified by chromatography over SiO2. The title compound is obtained as an oil having characterization data as indicated below.

reactant | N-benzyloxycarbonylbenzylamine | 50 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC=CC=C1 | C15H15NO2
reactant | 1,4-dibromo-2-butene | 44 g | BrCC=CCBr | C4H6Br2
reactant | NaH | 10.7 g | [H-].[Na+]
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
product | Benzyl-(4-bromo-but-2-enyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC=CCBr)CC1=CC=CC=C1)=O | C19H20BrNO2
